US04908363
A suspension of 200 mg of 1-(4-hydroxy-3,5-di-tert.-butylbenzoylamino)-2-methyl-1H-imidazole in 10 ml of anhydrous tetrahydrofuran is treated under an inert gas with 1.2 ml of a 2N borane-dimethyl sulfide complex solution in toluene. The mixture is then heated at reflux for 4 hours, left to cool to 0°, treated with methanolic hydrochloric acid (5 ml of methanol and 0.5 ml of conc. HCl), and again heated at reflux for 1 hour and evaporated in a vacuum. The residue is taken up in 4 ml of water and saturated sodium bicarbonate solution is added until the pH amounts to 8-9. The mixture is extracted three times with 5 ml of methylene chloride each time and, after drying, the combined methylene chloride phases are evaporated. The residue is recrystallized from cyclohexane and there is obtained 1-(4-hydroxy-3,5-di-tert.-butylbenzylamino)-2-methylimidazole of m.p. 180°.

reactant | 1-(4-hydroxy-3,5-di-tert.-butylbenzoylamino)-2-methyl-1H-imidazole | 200 mg | OC1=C(C=C(C(=O)NN2C(=NC=C2)C)C=C1C(C)(C)C)C(C)(C)C | C19H27N3O2
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-hydroxy-3,5-di-tert.-butylbenzylamino)-2-methylimidazole | OC1=C(C=C(CNN2C(=NC=C2)C)C=C1C(C)(C)C)C(C)(C)C | C19H29N3O
